US07985744B2
(1) Preparation of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene (951 mg, 1.75 mmol) was treated with N,N-dimethylacrylamide (540 mg, 5.44 mmol) and sodium hydride (60% in oil, 105 mg, 2.62 mmol) in tetrahydrofuran (17.5 ml) in the same manner as shown in Example 4(1) (at 5° C. for 14 hours), followed by work up and purification using column chromatography (hexane:ethyl acetate= 2:1) to give the titled compound (1.05 g, 92.7%) as a yellow oil.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-17-(hydroxymethyl)androsta-5,7,16-triene | 1.75 mmol, 951 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H56O3Si2
reactant | N,N-dimethylacrylamide | 5.44 mmol, 540 mg | CN(C(C=C)=O)C | C5H9NO
reactant | sodium hydride | 2.62 mmol, 105 mg | [H-].[Na+]
solvent | tetrahydrofuran | 17.5 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene | 1.05 g, 92.7% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C37H65NO4Si2
